US05972965
A solution of 1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxy-1-naphthaleneamine (0.21 g), 1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1,4-dione (0.12 g), NaBH3CN (84 mg) and KOH (30 mg) in acetic acid (0.5 ml) and methanol (4 ml). After being stirred for 3 days at room temperature, the solvent was evaporated in vacuo. The residue was partitioned between ethyl acetate and sat. NaHCO3. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-[2-[4,5-bis(4-methylphenyl)oxazol-2-yl]pyrrolidin-1-yl]-1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxynaphthalene (0.24 g). FABMS (m/z): 702 (M+ -1) NMR (CDCl3, δ): 1.08 (9H, s), 1.58-3.04 (12H, m), 2.34 (3H, s), 2.36 (3H, s), 6.18-7.80 (21H, m)

reactant | 1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxy-1-naphthaleneamine | 0.21 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=C2CCCC(C2=CC=C1)N | C26H31NOSi
reactant | 1-[4,5-bis(4-methylphenyl)oxazol-2-yl)butan-1,4-dione | 0.12 g | CC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)C)C(CCC=O)=O | C21H19NO3
reactant | NaBH3CN | 84 mg | [BH3-]C#N.[Na+]
reactant | KOH | 30 mg | [OH-].[K+]
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 ml | CO | CH4O
product | 1-[2-[4,5-bis(4-methylphenyl)oxazol-2-yl]pyrrolidin-1-yl]-1,2,3,4-tetrahydro-5-t-butyldiphenylsilyloxynaphthalene | 0.24 g | CC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)C)C1N(CCC1)C1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C47H50N2O2Si
